US03950420
2-[1-(allyloxyamino)butylidene]-5,5-dimethylcyclohexane-1,3-dione hydrate
2.65g of 2-[1-(allyloxyamino)butylidene]-5,5-dimethylcyclohexane -1,3-dione was added to 10ml of water and the mixture was vigorously stirred. After several minutes, the precipitate was filtered, washed with water and dried. White crystal having a melting point of 46°-47°C was obtained.

reactant | 2-[1-(allyloxyamino)butylidene]-5,5-dimethylcyclohexane -1,3-dione | 2.65g | C(C=C)ONC(CCC)=C1C(CC(CC1=O)(C)C)=O | C15H23NO3
solvent | water | 10ml | O | H2O
product | 2-[1-(allyloxyamino)butylidene]-5,5-dimethylcyclohexane-1,3-dione hydrate | O.C(C=C)ONC(CCC)=C1C(CC(CC1=O)(C)C)=O | InChI=1S/C15H23NO3.H2O/c1-5-7-11(16-19-8-6-2)14-12(17)9-15(3,4)10-13(14)18;/h6,16H,2,5,7-10H2,1,3-4H3;1H2
